US08207164B2
k) (5-{5-[(5-Bromo-pyridine-2-carbonyl)amino]-2-fluoro-phenyl}-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester
To a solution of 325 mg (0.952 mmol) [5-(5-amino-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester, 212 mg (1.047 mmol) 5-bromo-pyridine-2-carboxylic acid, 168 mg (1.238 mmol) HOAt and 0.34 ml (2.38 mmol) Et3N in 5 ml DCM were added 237 mg (1.24 mmol) EDC.HCl. The mixture was stirred overnight. The mixture was diluted with EtOAc and washed with water, 1N HCl, brine and 5% aqueous NaHCO3. The organic phase was dried with MgSO4.H2O, filtered and purified by chromatography on silica gel (hexane/14-18% EtOAc) to give the desired product as colorless foam.

reactant | [5-(5-amino-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 0.952 mmol, 325 mg | C(C)(C)(C)OC(NC=1COCC(N1)(C(F)F)C1=C(C=CC(=C1)N)F)=O | C16H20F3N3O3
reactant | 5-bromo-pyridine-2-carboxylic acid | 1.047 mmol, 212 mg | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | HOAt | 1.238 mmol, 168 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | Et3N | 2.38 mmol, 0.34 ml | CCN(CC)CC | C6H15N
reactant | EDC.HCl | 1.24 mmol, 237 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-{5-[(5-Bromo-pyridine-2-carbonyl)amino]-2-fluoro-phenyl}-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C(F)F)C1=C(C=CC(=C1)NC(=O)C1=NC=C(C=C1)Br)F)=O | C22H22BrF3N4O4
